Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Transfer from OSH after a fall due to syncope complicated by 
___, ear drum rupture
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ with a PMHx of CHF, HTN, HLD, polymyalgia 
rheumatic, micturition syncope who presents after a syncopal 
event in the bathroom on the evening of ___ and was transferred 
to ___ with subsequent small hemorrhagic contusion/SAH in the 
inferior left frontal lobe and anterior left temporal lobe, as 
well as right mastoid fracture with likely ruptured right ear 
drum. Transferred to medicine for further care and syncope work 
up. No plans for intervention on SAH or ruptured ear drum per 
neurosurgery or ENT. 

He had a drink on the night of this episode. He felt weak after 
urinating. He states that he lost consciousness for 
hours--though per documentation he was initially GCS 9 and 
quickly became AAOx1 at ___. He denies any preceding illness or 
feeling dehydrated. He denies any pain currently or difficulty 
hearing. 

He states that he has had micturition syncope twice in the past 
___ years.  He started urinating sitting down after these 
episodes, but after 6 months he began standing up again.  He 
feels lightheaded once a week during urinary but has not 
syncopized until now.  

Of note, he had two previous episodes note in ___ records in 
___ and ___.  It was noted to be post-micturition syncope in 
___.  He was seen at ___ for NSVT and an EP study 
which showed no site of hyperactivity. 

Reportedly stated he had an echo 2 weeks ago (reportedly echo 
decreased from 45 to 40). 

ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. 
 
Past Medical History:
Past Medical History:

Non-ischemic cardiomyopahty(EF 45% per pt report at ___) 
Mild to moderate aortic insufficiency, most recent echo ___
HTN
HLD
GERD
Polymyalgia rheumatica
Micturition syncope
Frequent PVC's
Polymyalgia rheumatica
History of GI bleed status post colon polyps removal
BPH
 
Social History:
___
Family History:
mother with rheumatoid arthritis. Father died in a car accident. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================
Vitals: 98.9 78 130/74 18 98% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding, 
normoactive bowel sounds, no palpable masses
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused. Mild tenderness to 
palpation over left femur. 

DISCHARGE PHYSICAL EXAM: 
========================

VS: 98.6  150/79  67 16 95 RA   
Tele: Few PVCS, otherwise no events. 
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor, 
decreased hearing in R ear.   
NECK: Supple without LAD  
PULM: On RA, good air exchange, no increased WOB, Mild crackles 
at bases, no wheezes or ronchi.
COR: RRR, normal S1,S2. mild ___ diastolic murmur best heard at 
triscupid auscultation point.  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema, pulses intact.   
NEURO: CN II-XII grossly intact, motor function grossly normal 
 
Pertinent Results:
ADMISSION LABS: 
===============

___ 10:44PM BLOOD WBC-5.7 RBC-3.87* Hgb-12.1* Hct-35.8* 
MCV-93 MCH-31.3 MCHC-33.8 RDW-13.8 RDWSD-46.9* Plt ___
___ 10:44PM BLOOD Neuts-77.9* Lymphs-10.0* Monos-10.2 
Eos-0.5* Baso-0.5 Im ___ AbsNeut-4.43 AbsLymp-0.57* 
AbsMono-0.58 AbsEos-0.03* AbsBaso-0.03
___ 10:44PM BLOOD ___ PTT-26.2 ___
___ 10:44PM BLOOD Glucose-139* UreaN-21* Creat-1.4* Na-138 
K-3.7 Cl-98 HCO3-27 AnGap-17
___ 10:44PM BLOOD cTropnT-<0.01
___ 10:44PM BLOOD Calcium-9.1 Phos-3.2 Mg-2.0
___ 06:08AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 06:08AM URINE Color-Straw Appear-Clear Sp ___

PERTINENT IMAGING/STUDIES: 
==========================

EKG: Some PVCS, no ischemia. 

___ CXR

IMPRESSION:  
  
1. No focal lung consolidation. 
2. Abnormal right superior cardiac contour, which could 
represent dilated ascending aorta, correlation with PA and 
lateral chest radiograph is recommended. 

___ CT SINUS: 

IMPRESSION:   
  
1. Nondisplaced longitudinal fracture of the right temporal bone 
extending along the calvarium. 
2. Likely nondisplaced fracture of the dorsum sella of the 
sphenoid. 
3. Layering blood in the left sphenoid sinus with adjacent 
intraparenchymal air, although no definite fracture line 
identified, suspect a nondisplaced fracture of the sinus. 

___ CT HEAD: 

IMPRESSION: 
    
1. Progression of left temporal hemorrhagic contusion. 
2. No significant change in subarachnoid hemorrhage.  No new 
intracranial hemorrhage. 
3. Nondisplaced longitudinal right temporal bone fracture, 
further detailed on dedicated maxillofacial CT. 
4. High density layering fluid in the sphenoid sinus without 
definite fracture seen. 

___ CAROTID SERIES: 

IMPRESSION:  Less than 40% stenosis of the bilateral internal 
carotid arteries.  

MIRCO: 
======
___ Urine Culture  - Negative

DISCHARGE LABS: 
===============

___ 05:54AM BLOOD WBC-6.5 RBC-3.53* Hgb-11.2* Hct-33.1* 
MCV-94 MCH-31.7 MCHC-33.8 RDW-14.1 RDWSD-48.1* Plt ___
___ 05:54AM BLOOD Plt ___
___ 05:54AM BLOOD Glucose-122* UreaN-17 Creat-1.3* Na-138 
K-4.2 Cl-101 HCO3-29 AnGap-12
___ 05:54AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is an ___ M with a history of non-ischemic 
cardiomyopathy, micturition syncope, and mild AI who presents 
after an episode of apparent micturition syncope wherein he hit 
his head leading to a SAH and mastoid fracture with R ear drum 
rupture. His CT Head was stable. He was seen by ENT in the ED 
who recommended cipro drops and follow-up in one week. His 
course was also complicated by a mild ___ for which he should 
follow-up with his primary care physician. 

ACTIVE ISSUES: 
===============

#Syncope: History of micturition syncope in ___ and ___- 
current episode in a similar setting. Had negative EP study in 
___, no concerning findings on EKG currently. Given extensive 
past work-up including EP study, low concern for cardiac 
etiology. EKG only with PVCs. He was monitored on tele without 
any events 
He was instructed to sit down to urinate at all times. 

#SAH: Small hemorrhagic contusion/SAH in the inferior left 
frontal lobe and anterior left temporal lobe, small amount of 
blossoming expected per neurosurgery.  He will continue Keppra 
for a 7 day course until ___ with follow-up with neurosurgery 
in 4 weeks. 

#Ruptured Ear Drum:  Was seen by ENT in the ED. Given Cipro 
drops to to take until follow-up with an audiology exam at that 
time. 

___: Baseline Cr. 1.1 in ___. Cr 1.4 on admission.  Likely 
pre-renal, no signs of volume overload on exam. Downtrending at 
discharge, will need follow-up as an outpatient. Home diuretics 
restarted. 

#Non-ischemic cardiomyopathy: EF of 45% in ___ per patient 
report. Denies dyspea on exertion.  Breathing comfortably on RA. 
Appears euvolemic currently. Held home diuretics for one day and 
restarted on day of discharge. 

CHRONIC ISSUES: 
===============
#BPH: Continued home finasteride 

#GERD - no current symptoms. 
#Polymyalgia rheumatic - s/p steroids a few years ago, no 
current symptoms.

Transitional Issues: 
====================

[ ] Follow-up with primary care physician ___ ___ days for labs
[ ] Head CT in 4 weeks with follow-up with neurosurgery. 
[ ] Continue cipro drops until follow-up with Ear-Nose-Throat
[ ] Continue Keppra 500 mg twice daily until ___. 
[ ] On CXR, abnormal right superior cardiac contour, which could 
represent dilated ascending aorta, correlation with PA and 
lateral chest radiograph is recommended. 
 
Medications on Admission:
- carvedilol 3.125mg QAM and 6.25mg QHS
- Lasix 20mg QD
- spironolactone 12.5mg QD
- finasteride ? dose QD
- Colace PRN
 
Discharge Medications:
1.  Ciprofloxacin 0.3% Ophth Soln ___ DROP RIGHT EAR BID 
RX *ciprofloxacin HCl 0.3 % ___ drops Right Ear twice a day Disp 
___ Milliliter Milliliter Refills:*1 
2.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam [Keppra] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*9 Tablet Refills:*0 
3.  Carvedilol 3.125 mg PO QAM  
4.  Carvedilol 6.25 mg PO QHS  
5.  Docusate Sodium 100 mg PO BID:PRN constipation  
6.  Finasteride 5 mg PO DAILY  
7.  Furosemide 20 mg PO DAILY  
8.  Spironolactone 12.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subarachnoid Hemorrhage
Left temporal hemorrhagic contusion
Right temporal bone fracture
Sphenoid fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
a fall and were found to have a small head bleed and cranial 
fracture. Neurosurgery evaluated you and determined your 
injuries were non-operative. You were also found to have a 
ruptured ear drum for which you should take ear drops until you 
see the Ear-Nose-Throat physicians in one week. You will also 
have a repeat head scan in 4 weeks and follow-up with a 
neurosurgeon. You should take the Keppra through ___. 

It is extremely important that you urinate sitting down from 
here on out. 

Keep your ear dry whenever you take a shower by putting a 
cotton-ball in your ear and placing Vaseline on the outside to 
create a seal. Also make sure you ask about a hearing test at 
your Ear-Nose-Throat appointment. 

Please take your medications and keep your follow-up 
appointments as listed below.

Please call your primary care physician's office to see if you 
can come in the get labs drawn before your visit. 

It was a pleasure taking care of you, 

-Your ___ Team 

 
Followup Instructions:
___